Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea, vomiting and abdominal pain
 
Major Surgical or Invasive Procedure:
___: endoscopy w/ balloon dilation

 
History of Present Illness:
___ w/ EtOH cirrhosis (c/b HE, ascites, SBP), s/p gastric bypass 
transferred from OSH with decompensated cirrhosis with ascites, 
___, and malnutrition.  
 Of note, patient was admitted at ___ on ___, at which time 
she was treated for SBP with ceftriaxone and discharged on 
ciprofloxacin. She had two paracentesis during admission with 
removal of 5L and 3L.  
 Pt then presented to ___ on ___ with nausea, vomiting and 
abdominal pain. Found to have leukocytosis and bilirubin ~10. CT 
abdomen/pelvis showed ascites, gallbladder sludge, cirrhotic 
liver, mildly enlarged spleen. There were multiple issues during 
the hospitalization:  
 #) Ascites: likely etiology of abdominal pain, which improved 
after removal of 4.4L on ___.  
 #) Multifocal pneumonia/sepsis: on ___, patient developed 
fevers and hypoxia and cough, found to have LLL and LML 
pneumonia. Treated with vancomycin, cefepime and flagyl 
(antibiotics discontinued ___. Blood cultures remained 
negative.  
 #) Questionable SBP: In the ED, she received CTX prior to a 
diagnostic para, and then was empirically treated for 5 days. 
Diagnostic paracentesis did not show SBP (but was done after CTX 
started).  
 #) ___: baseline 0.9, increased to 1.6. Diuretics were held and 
given albumin. Started on midodrine and octreotide.  
 #) Malnutrition: started on TPN via PICC on ___  
 #) GJ anastamotic stricture: pt experiencing dysphagia and 
regurgitation. Underwent EGD ___, passed through but did not 
dilate due to coagulopathy.  
 #) Mild HE: upon admission, wasn't taking lactulose 
appropriately due  
 to regurgitation, improved during hospitalization. Prior to 
transfer, AOx3, linear, hemodynamically stable.  
 #) Cirrhosis: Bili improved from 11.2 to 5.3 but INR 2.5-> 3.5 
and worsening ___ with MELD up to 33.  
 #) Anemia: EGD w/o varices. Received 1U PRBCs on ___, and 1U 
on ___. HCt stable at 26.1 prior to dtransfer.  
 #) Coagulopathy: received vitamin K 10mg PO x 3 days, then IV 
vit K later  
 Upon arrival to the floor, VS: 98.3 90/57 82 18 94RA  
 Pt reports abdominal distention and crampy. Also reports 
headache, similar to prior chronic headaches. Also reports 
non-productive cough, no shortness of breath. No fevers. No 
chest pain. No nausea or vomiting currently, but was nausea 
several days ago. Loose stools from lactulose. No lower 
extremity pain.  
 
 ROS:  
 (+) see HPI, otherwise negative 
 
Past Medical History:
 - s/p gastric bypass c/b stricture of the gastrojejunal 
anastomosis and internal hernia causing SBO  
 - alcohol cirrhosis, diagnosed last year  
 - numerous hospitalizations for abdominal pain, requiring 
paracentesis.  
 - esophageal stricturing, last dilation ___ years ago.  
 - depression  
 - anxiety  
 - obese BMI 30  
 - GERD  
 - Cdif  
 - IBS  
 - thrombocytopenia  
 - left ankle fusion  
 
Social History:
___
Family History:
 - father w/ diabetes  
 - maternal grandfather has unknown cancer  

 
Physical Exam:
ADMISSION PHYSICAL:
================================
VS: 98.3 90/57 82 18 94RA  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT: normocephalic, atraumatic, no conjunctival pallor, 
+scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, JVP flat.  
 HEART: RRR, normal S1/S2, systolic murmur  
 LUNGS: Decreased breath sounds at bases with rales  
 ABDOMEN: Normal bowel sounds, soft, mild tenderness diffusely, 
distented with fluid wave, not tense, no rebound or guarding  
 EXTREMITIES: Warm, well-perfused, 1+ pitting edema at bilateral 
ankles.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with moving all four extremities. No asterixis.  
 
DISCHARGE PHYSICAL:
===============================
Vital signs: 88.3, 97/61, 90, 18, 86% on room air
General: Pleasant, well-appearing, in no apparent distress
HEENT: Normocephalic, atraumatic, no conjunctival pallor, 
scleral icterus present, PERRLA, NG tube in place
Neck: Supple, JVP flat
Heart: RRR, normal S1/S2, systolic murmur
Lungs: Decreased breath sounds at bases with rales right greater 
than left
Abdomen: Normal bowel sounds, soft, mild tenderness diffusely, 
distended, not tense, no guarding
Extremities: Warm, well perfused, 1+ pitting edema at bilateral 
ankles extending up to the shins
Skin: Without rash
Neurologic: A and O 3, CN II through XII grossly normal, normal 
sensation, with moving all 4 extremities.  No asterixis
 
Pertinent Results:
ADMISSION LABS:
===========================
___ 12:01AM BLOOD WBC-7.3 RBC-2.38* Hgb-8.3* Hct-24.7* 
MCV-104* MCH-34.9* MCHC-33.6 RDW-19.5* RDWSD-73.5* Plt Ct-67*
___ 12:01AM BLOOD Neuts-69 Bands-0 Lymphs-18* Monos-12 
Eos-1 Baso-0 ___ Myelos-0 AbsNeut-5.04 AbsLymp-1.31 
AbsMono-0.88* AbsEos-0.07 AbsBaso-0.00*
___ 12:01AM BLOOD ___ PTT-41.2* ___
___ 12:01AM BLOOD Ret Aut-3.8* Abs Ret-0.09
___ 12:01AM BLOOD Glucose-104* UreaN-12 Creat-1.1 Na-131* 
K-4.2 Cl-99 HCO3-24 AnGap-12
___ 12:01AM BLOOD ALT-13 AST-39 LD(LDH)-148 AlkPhos-72 
TotBili-4.8* DirBili-2.1* IndBili-2.7
___ 12:01AM BLOOD Albumin-3.2* Calcium-8.2* Phos-2.5* 
Mg-1.9
___ 12:01AM BLOOD VitB12-1646* Hapto-<10*

DISCHARGE LABS:
============================
___ 04:21AM BLOOD WBC-6.2 RBC-2.13* Hgb-7.3* Hct-22.8* 
MCV-107* MCH-34.3* MCHC-32.0 RDW-19.6* RDWSD-77.4* Plt Ct-91*
___ 04:21AM BLOOD ___ PTT-42.3* ___
___ 04:21AM BLOOD Glucose-109* UreaN-23* Creat-0.9 Na-135 
K-4.1 Cl-102 HCO3-26 AnGap-11
___ 04:21AM BLOOD ALT-15 AST-54* AlkPhos-64 TotBili-3.6*
___ 04:21AM BLOOD Albumin-2.9* Calcium-8.3* Phos-3.7 Mg-1.8

OTHER LABS:
============================
___ 03:48PM ASCITES TotPro-1.6 Glucose-101 LD(LDH)-44 
Albumin-0.8
___ 03:48PM ASCITES TNC-134* RBC-183* Polys-10* Lymphs-50* 
Monos-2* Mesothe-2* Macroph-36* Other-0

MICROBIOLOGY:
============================
___ 4:28 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 

___ 3:48 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

 
 
___ 5:34 am BLOOD CULTURE      Source: Line-PICC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

STUDIES:
=====================================
EGD ___:
Findings: 
Esophagus:  
Mucosa: Distal esophageal erosions consistent with esophagitis 
were seen at the gastroesophageal junction. This was classified 
at Grade A by ___.  
Stomach:  
Lumen: A stricture was seen at the site of Gastro-Jejunal 
anastomosis. The scope could not be advanced. A 10-12mm CRE 
balloon was used to dilate the stricture up to 12mm. After 
balloon dilation the decision was made to place a NJT to help 
with feeding. A NJT was successfully placed across the 
anastomotic stricture.   
Contents: Small amount of digested food was found in the stomach 
pouch.  
Duodenum: Normal duodenum. 

Impression:
Distal esophageal erosions consistent with esophagitis were 
seen at the gastroesophageal junction. This was classified at 
Grade A by ___.
A stricture was seen at the site of Gastro-Jejunal anastomosis. 
The scope could not be advanced. A 10-12mm CRE balloon was used 
to dilate the stricture up to 12mm.
After balloon dilation the decision was made to place a NJT to 
help with feeding. A NJT was successfully placed across the 
anastomotic stricture.

Recommendations: 
Start enteral nutrition using NJT.
Follow-up with referring physicians as previously scheduled.
If any chest or abdominal pain, fevers, bleeding, difficulty 
swallowing, nausea, vomiting or any other concerning post 
procedure symptom, please call the advanced endoscopy fellow on 
call ___ ___.
Repeat EGD in ___.
 
Brief Hospital Course:
___ w/ EtOH cirrhosis (c/b HE, ascites, SBP), s/p gastric bypass 
who was initially admitted to ___ with 
nausea/vomiting/abdominal pain where she was treated for SBP 
with CTX, developed HRS started on midodrine/octreotide and 
treated for multifocal pneumonia. She was transferred to ___ 
for management of dysphagia ___ esophageal stricture given 
technically difficult dilation and patient coagulopathic.

At ___, the patient reported a chronic stricture developed 
after RYGB ___ years ago) w/ daily emesis and difficulty with 
solids>liquids. The patient underwent EGD on ___ w/ balloon 
dilation and NG tube placement (FFP administered prior to 
dilation). Tube feeds were initiated and well tolerated by 
patient. Patient was discharged on TF, and is to follow up as 
outpatient for further dilation/stent placement.

Hospital course was complicated by decompensated cirrhosis 
(ascites). Patient underwent diagnostic/therapeutic paracentesis 
on ___ by ___ and had 4L removed. No e/o SBP but she was started 
on ciprofloxacin prophylaxis given report of SBP at ___. The 
patient's HRS at ___ had improved by the time of admission to 
___, with admission Cr of 1.1. Her midodrine was uptitrated to 
15mg TID given persistently low blood pressures, octreotide was 
stopped. MELD on discharge: 20

Of note, patient inquired about transplant work up. Social work 
was consulted and initiated discussion regarding transplant work 
up and requirement of abstinence. Patient's reported last drink: 
___. Our liver transplant team will contact the patient 
for further evaluation.

Transitional Issues:
==============================
-Diuretics are being held on discharge in the setting of 
possible HRS. If her Cr is stable on follow up with her 
gastroenterologist, they can be resumed with close monitoring.
-Patient must abstain from ETOH to be considered for liver 
transplant in the future.
-Patient w/ concern for HRS, started on midodrine 15mg TID with 
normalization of Cr. She should follow up with outpatient 
gastroenterologist for further titration/discontinuation. Cr on 
discharge 0.9.
-Outpatient follow up to be arranged with ___ GI (Dr. ___ 
___ for potential repeat scoping with stent placement.
-___ Liver ___ to follow up with the patient for 
further evaluation.
-Patient was set up with tube feeds via NGT. She will need 
repeat nutrition evaluation as an outpatient, which will likely 
occur BEFORE she establishes care with a ___ Hepatologist. Her 
outpatient gastroenterologist will address this at her upcoming 
appointment.

# CODE: Full 
# CONTACT: ___, mother, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. DICYCLOMine ___ mg PO TID W/MEALS 
3. Furosemide 40 mg PO DAILY 
4. Lactulose 30 mL PO TID 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 40 mg PO DAILY 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
8. Potassium Chloride 40 mEq PO DAILY 
9. Spironolactone 100 mg PO DAILY 
10. Thiamine 100 mg PO DAILY 
11. TraMADol 50 mg PO QHS:PRN Pain - Moderate 
12. TraZODone 100 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*20 Capsule Refills:*0 
2.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain 
RX *phenol [Chloraseptic] 0.5 % 1 spray to throat every 6 hours 
Disp #*1 Spray Refills:*1 
3.  Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*1 
4.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*1 
5.  Midodrine 15 mg PO TID 
RX *midodrine 5 mg 3 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
7.  DICYCLOMine ___ mg PO TID W/MEALS  
8.  Escitalopram Oxalate 20 mg PO DAILY  
9.  Lactulose 30 mL PO TID  
10.  Multivitamins 1 TAB PO DAILY  
11.  Omeprazole 40 mg PO DAILY  
12.  Ondansetron 4 mg PO Q8H:PRN nausea  
13.  Thiamine 100 mg PO DAILY  
14.  TraZODone 100 mg PO QHS:PRN insomnia  
15. HELD- Furosemide 40 mg PO DAILY  This medication was held. 
Do not restart Furosemide until outaptient follow up with your 
gastroenterologist
16. HELD- Potassium Chloride 40 mEq PO DAILY  This medication 
was held. Do not restart Potassium Chloride until outpatient 
follow up with your PCP
17. HELD- Spironolactone 100 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until outpatient follow up 
with your gastroenterologist
18. HELD- TraMADol 50 mg PO QHS:PRN Pain - Moderate  This 
medication was held. Do not restart TraMADol until you have 
stopped taking OXYCODONE. Taking both medications can be 
dangerous and cause excess sleepiness.
19.Tube Feeds
Jevity 1.5 or equivalent at 60ml/hour over 24 hours. ___ cycle 
as tolerated at 100cc/hour over 14 hours. Dispense one month 
supply. Refills: 2.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
======================
-Esophageal stricture
-Malnutrition

Secondary Diagnosis:
=======================
-Hepatorenal syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure being involved in your care.

Why you were here:
-You were transferred here from ___ for 
dilation of your esophageal stricture as well as for kidney 
injury.

What we did while you were here:
-We put a camera down your esophagus and dilated you esophagus. 
A feeding tube was placed to help you with your nutrition. We 
started you on tube feeds which you tolerated well.
-We also increased your midodrine to help your pressures stay up 
and to help your kidney function.

Your next steps:
-Please take all your medications as indicated below.
-Please keep all of your appointments. The liver transplant team 
will contact you about seeing one of the ___ doctors regarding 
___ liver transplant evaluation. The gastroenterology team also 
wants to repeat an EGD in several weeks.

We wish you well
Your ___ Care Team
 
Followup Instructions:
___